US07541372B2
a) 5-Bromo-2-[5-(5 -methyl-3-phenyl-isoxazol-4-yl)-[1,3,4]oxadiazol-2-yl]-pyridine
As described for example 137a, 5-methyl-3-phenyl-isoxazole-4-carboxylic acid hydrazide (4.14 g, 19.0 mmol) using 5-bromo-2-carboxy pyridine instead of 6-chloronicotinic acid was converted to the title compound (2.83 g, 39%) which was obtained as a brown solid. MS: m/e=385.1 [M+H]+.

reactant | 5-methyl-3-phenyl-isoxazole-4-carboxylic acid hydrazide | 19.0 mmol, 4.14 g | CC1=C(C(=NO1)C1=CC=CC=C1)C(=O)NN | C11H11N3O2
reactant | 5-bromo-2-carboxy pyridine | BrC=1C=CC(=NC1)C(=O)O | C6H4BrNO2
product | 5-Bromo-2-[5-(5 -methyl-3-phenyl-isoxazol-4-yl)-[1,3,4]oxadiazol-2-yl]-pyridine | 2.83 g, 39% | BrC=1C=CC(=NC1)C=1OC(=NN1)C=1C(=NOC1C)C1=CC=CC=C1 | C17H11BrN4O2
